US04990521
A mixture of 4 parts of trans-4-[(4-fluoro-2-nitrobenzoyl)amino]-3-hydroxy-N,N,γ-trimethyl-α,α-diphenyl-1-piperidinebutanamide, 1 part of a solution of thiophene in methanol 4% and 200 parts of methanol was hydrogenated at normal pressure and at room temperature with 2 parts of platinum-on-charcoal catalyst 5%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated to dry. The residue was taken up In acetonitrile. The organic layer was evaporated again and the residue was crystallized from a mixture of acetonitrile and a few drops of water. The product was filtered off and dried, yielding 1.93 parts (51.8%) of trans-4-[(2-amino-4-fluorobenzoyl)amino]-3-hydroxy-N,N,γ-trimethyl-α,α-diphenyl-1piperidinebutanamide monohydrate; mp. 127.0° C. (compound 67).

reactant | trans-4-[(4-fluoro-2-nitrobenzoyl)amino]-3-hydroxy-N,N,γ-trimethyl-α,α-diphenyl-1-piperidinebutanamide | FC1=CC(=C(C(=O)N[C@H]2[C@@H](CN(CC2)C(CC(C(=O)N(C)C)(C2=CC=CC=C2)C2=CC=CC=C2)C)O)C=C1)[N+](=O)[O-] | C31H35FN4O5
reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | platinum-on-charcoal | [Pt] | Pt
product | trans-4-[(2-amino-4-fluorobenzoyl)amino]-3-hydroxy-N,N,γ-trimethyl-α,α-diphenyl-1piperidinebutanamide monohydrate | 51.8% | O.NC1=C(C(=O)N[C@H]2[C@@H](CN(CC2)C(CC(C(=O)N(C)C)(C2=CC=CC=C2)C2=CC=CC=C2)C)O)C=CC(=C1)F | InChI=1S/C31H37FN4O3.H2O/c1-21(36-17-16-27(28(37)20-36)34-29(38)25-15-14-24(32)18-26(25)33)19-31(30(39)35(2)3,22-10-6-4-7-11-22)23-12-8-5-9-13-23;/h4-15,18,21,27-28,37H,16-17,19-20,33H2,1-3H3,(H,34,38);1H2/t21?,27-,28-;/m1./s1
